US08957070B2
7-Nitro-1H-indole-2-carbothioamide
A mixture of 7-nitro-1H-indole-2-carboxamide (2.50 g), Lawesson's reagent (5.42 g) and tetrahydrofuran (50 mL) was stirred at 50° C. overnight. The reaction mixture was concentrated, and the resulting crystals were filtrated, washed with toluene, and dried to give the title compound (2.08 g, yield 77%) as yellow crystals. melting point>237° C. (decomposition).

reactant | 7-nitro-1H-indole-2-carboxamide | 2.50 g | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(=O)N | C9H7N3O3
reactant | Lawesson's reagent | 5.42 g | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 7-Nitro-1H-indole-2-carbothioamide | 2.08 g, yield 77% | [N+](=O)([O-])C=1C=CC=C2C=C(NC12)C(N)=S | C9H7N3O2S
